US04634710
7.4 g of (4-ethoxy-5-methyl-2-pyridyl)methyl acetate were dissolved in 46 ml of ethanol. 23 ml of 3N sodium hydroxide solution were then added dropwise thereto and the mixture was stirred at room temperature for a further 3 hours. The ethanol was subsequently removed in vacuo, whereupon the residual aqueous solution was extracted three times with 100 ml of methylene chloride. The organic extracts were dried over sodium sulfate and evaporated in vacuo. The residue was crystallized from petroleum ether and there was obtained 4-ethoxy-5-methyl-2-pyridylmethanol of melting point 99°-101°.

reactant | (4-ethoxy-5-methyl-2-pyridyl)methyl acetate | 7.4 g | C(C)(=O)OCC1=NC=C(C(=C1)OCC)C | C11H15NO3
reactant | sodium hydroxide | 3N, 23 ml | [OH-].[Na+]
solvent | ethanol | 46 ml | C(C)O | C2H6O
product | 4-ethoxy-5-methyl-2-pyridylmethanol | C(C)OC1=CC(=NC=C1C)CO | C9H13NO2
